US06384065B1
In 50 ml of methylene chloride was dissolved 2.50 g of 4-[4-(methylthio)phenoxy]-1-cyclohexanone. After adding 5.48 g of m-chloroperbenzic acid at 0-5° C., the resulting mixture was stirred at ambient temperature for 4 hours. The reaction mixture was poured into water, pH was adjusted to 8.0 with saturated aqueous solution of sodium hydrogen carbonate, and the organic layer was separated. The organic layer thus obtained was washed successively with aqueous solution of sodium thiosulfate, water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Recrystallization of the residue from ethanol gave 2.05 g of 4-[4-(methylsulfonyl)phenoxy]-1-cyclohexanone as a colorless crystalline product.

reactant | 4-[4-(methylthio)phenoxy]-1-cyclohexanone | 2.50 g | CSC1=CC=C(OC2CCC(CC2)=O)C=C1 | C13H16O2S
reactant | water | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-[4-(methylsulfonyl)phenoxy]-1-cyclohexanone | 2.05 g | CS(=O)(=O)C1=CC=C(OC2CCC(CC2)=O)C=C1 | C13H16O4S
